US08039124B2
2-(3,5-difluorophenyl)-4-dimethylaminopyridine L5
A mixture of 2-iodo-4-dimethylaminopyridine (2.68 g, 10.8 mmol), 3,5-difluorophenylboronic acid (2.56 g, 16.2 mmol) and K2CO3 (6.7 g, 48.6 mmol) in toluene (60 ml) and water (10 ml) were degased with nitrogen for 15 minutes. Pd(PPh3)4 (800 mg, 0.66 mmol) was added and the resulting mixture was heated to 90° C. for 48 hours under nitrogen. After being cooled to room temperature, the aqueous phase was separated and extracted with EtOAc (3×100 ml). The combined organic fractions were washed with brine, dried over MgSO4, filtered and evaporated to afford a brown oil. The following oil was dissolved in Et2O and extracted with 10% HCl solution (3×50 ml). The combined aqueous fractions were washed with Et2O (2×100 ml) and neutralized with concentrated NaOH solution. The resulting mixture was extracted with EtOAc (4×100 ml), the combined organic fractions were washed with brine (50 ml), dried over MgSO4, filtered and evaporated to dryness. The obtained residue was then purified by column chromatography (SiO2, EtOAc) to afford 1.2 g (46%) of the titled compound as a colorless oil, which solidify upon standing. The crude compound was purified by column chromatography (SiO2, CHCl3 then CHCl3/MeOH, 97/3) to afford 1 g (40%) of the titled compound as a colorless oil, which solidify upon standing.

reactant | 2-iodo-4-dimethylaminopyridine | 10.8 mmol, 2.68 g | IC1=NC=CC(=C1)N(C)C | C7H9IN2
reactant | 3,5-difluorophenylboronic acid | 16.2 mmol, 2.56 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | K2CO3 | 48.6 mmol, 6.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
solvent | Et2O | CCOCC | C4H10O
catalyst | Pd(PPh3)4 | 0.66 mmol, 800 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3,5-difluorophenyl)-4-dimethylaminopyridine | 1.2 g, 46% | FC=1C=C(C=C(C1)F)C1=NC=CC(=C1)N(C)C | C13H12F2N2
